US04600540
Following the procedure of Example 1 using 26.9 g of 3-(4-bromobenzoyl)-2-methylenepropionic acid and 10 ml of thiopropionic acid in place of 19.0 g of 3-benzoyl-2-methylenepropionic acid and 8.0 ml of thioacetic acid, respectively, there was obtained 25.5 g (yield: 71%) of 3-(4-bromobenzoyl)-2-propionylthiomethylpropionic acid as crystals.

reactant | 3-(4-bromobenzoyl)-2-methylenepropionic acid | 26.9 g | BrC1=CC=C(C(=O)CC(C(=O)O)=C)C=C1 | C11H9BrO3
reactant | thioacetic acid | 8.0 ml | C(C)(=S)O | C2H4OS
reactant | thiopropionic acid | 10 ml | C(CC)(=S)O | C3H6OS
product | 3-(4-bromobenzoyl)-2-propionylthiomethylpropionic acid | 25.5 g, yield: 71% | BrC1=CC=C(C(=O)CC(C(=O)O)CSC(CC)=O)C=C1 | C14H15BrO4S
